US06911468B2
(1) (2R)-2-{4-[5-methyl-1-(4-dodecyloxyphenethyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoic acid
To a mixed solution of ethyl (2R)-2-{4-[5-methyl-1-(4-dodecyloxyphenethyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate (461 mg, 0.722 mmol) in THF (10 ml) and methanol (5 ml) was added 1N aqueous potassium hydroxide solution (2.16 ml, 2.16 mmol) and the mixture was stirred for 1 hour at room temperature. The reaction solution was neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate anhydride, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the object compound as an oily substance. 360 mg (yield: 81.6%)

reactant | ethyl (2R)-2-{4-[5-methyl-1-(4-dodecyloxyphenethyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate | 0.722 mmol, 461 mg | CC1=CC=C(N1CCC1=CC=C(C=C1)OCCCCCCCCCCCC)C1=CC=C(O[C@@H](C(=O)OCC)CC2=CC=CC=C2)C=C1 | C42H55NO4
reactant | potassium hydroxide | 2.16 mmol, 1N, 2.16 ml | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | (2R)-2-{4-[5-methyl-1-(4-dodecyloxyphenethyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoic acid | yield: 81.6% | CC1=CC=C(N1CCC1=CC=C(C=C1)OCCCCCCCCCCCC)C1=CC=C(O[C@@H](C(=O)O)CC2=CC=CC=C2)C=C1 | C40H51NO4
